US04291050
To a solution of sodium (1.76 g., 0.076 g. atom) in 1-propanol (250 ml.) is added 6,7-dichloro-5-hydroxy-2-methyl-2-phenyl-1-indanone (23.5 g., 0.076 mole) and 2-iodoethanol (14.5 g., 0.085 mole). The reaction mixture is refluxed 18 hours then evaporated at reduced pressure to give 12.0 g of 2-(6,7-dichloro-2-methyl-1-oxo-2-phenyl-5-indanyloxy)ethanol which melts at 188°-90° C. after recrystallization from ethanol.

reactant | sodium | 1.76 g | [Na] | Na
reactant | 6,7-dichloro-5-hydroxy-2-methyl-2-phenyl-1-indanone | 0.076 mole, 23.5 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)O | C16H12Cl2O2
reactant | 2-iodoethanol | 0.085 mole, 14.5 g | ICCO | C2H5IO
solvent | 1-propanol | 250 ml | C(CC)O | C3H8O
product | 2-(6,7-dichloro-2-methyl-1-oxo-2-phenyl-5-indanyloxy)ethanol | 12.0 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)OCCO | C18H16Cl2O3
